2145-01-26 06:15:00 Physician Resident Progress Note
Chief Complaint: OSH transfer for workup of weakness
   24 Hour Events:
   [**1-25**] Events:
   - overnight remained anxious and uncomfortable, received ativan and
   morphine with only mild effect
   - tachycardic to 110s
   - no PO access, consider PEG v. NG tube today
 INVASIVE VENTILATION - START [**2145-1-25**] 09:05 PM
 MULTI LUMEN - START [**2145-1-25**] 09:42 PM
 EKG - At [**2145-1-25**] 10:53 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-1-26**] 01:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-1-26**] 01:00 AM
   Morphine Sulfate - [**2145-1-26**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-26**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 104 (104 - 122) bpm
   BP: 150/87(103) {127/83(95) - 150/89(103)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                      8 mL
                                                                    583 mL
   PO:
             TF:
   IVF:
                                                                      8 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                    145 mL
                                                                    265 mL
   Urine:
                                                                    145 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -138 mL
                                                                    318 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.37/45/179/29/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 447
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: CN: unable to squeeze eyes, EOM minimal upward gaze, PERRL 2mm->
   1 mm, tongue midline, sternocleidomastoids [**4-13**], shoulder shrug: pt did
   not coorperate fully
   delt: unable to move against gravity
   biceps: [**2-11**]
   triceps: [**2-11**]
   Finger ext: [**3-14**]
   hip flex: [**2-11**]
   quads: exam difficult as pt not completely cooperating [**2-11**]
   hams: [**2-11**]
   foot plantar/dorsiflex: [**4-13**]
   reflexes: brachoradialis: 3+ bil
   patellar: 3+ bilt
   achilles: unable to be elicited
   Labs / Radiology
   80 K/uL
   9.7 g/dL
   84 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.6 mEq/L
   10 mg/dL
   106 mEq/L
   139 mEq/L
   29.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2145-1-25**]  10:13 PM
                             [**2145-1-25**]  11:55 PM
                             [**2145-1-26**]  03:13 AM
   WBC
   6.4
   6.7
   Hct
   29.5
   29.9
   Plt
   76
   80
   Cr
   0.3
   0.3
   TropT
   0.18
   TCO2
   27
   Glucose
   73
   84
   Other labs: PT / PTT / INR:15.5/31.8/1.4, CK / CKMB /
   Troponin-T:98//0.18, ALT / AST:18/69, Alk Phos / T Bili:104/1.0,
   Amylase / Lipase:113/124, Albumin:2.2 g/dL, LDH:270 IU/L, Ca++:7.5
   mg/dL, Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   This is a 55 y/o F hx HCV on IFN, cryoglobulinemia, dysphagia,
   progressive neuromuscular weakness followed by neurology now s/p trach
   after intubation for aspiration pneumonia and persistant difficulty
   weaning from vent.
   .
   .
   # Hypoxic respiratory failure: She now has resolving resp failure from
   PNA/ARDS now s/p trach today at OSH. Her difficulty weaning from vent
   is presumptively [**1-11**] neuromuscular weakness. her pneumonia appears to
   have cleared rapidly. ? pneumonitis vs pneumonia. Nonetheless, she is
   on a [**7-19**] day course abx. Given that her weakness preceeded her
   critical illness, I suspect cryoglobulinemia as primary process.
   - complete 10 day of cefepime, will get ID approval
   - continue PS with goal to wean, daily RSBI and SBT; did well with
   decrease PS this morning
   - try sitting upright to see if diaphragmatic paralysis
   - consult neuron/liver for help determining etiology of muscle weakness
   - f/u outpt muscle bx results. Per OSH ICU attd, Dr. [**Last Name (STitle) **], call
   [**Telephone/Fax (1) 4688**] for bx results (or can page Dr. [**Last Name (STitle) **] [**Telephone/Fax (1) 4689**])
   - continue nebs given hx asthma
   .
   # Myopathy/Neuropathy: She is followed by neurology.
   Myopathy/neuropathy felt possibly [**1-11**] mixed cryoglobulinemia associated
   with HCV. Per recent neurology outpatient visit, EMG showed a mild
   sensorimotor polyneuropathy as well as a myopathic process in several
   proximal muscles (IP, biceps, infraspinatus, and prominently in L3
   paraspinals).  Muscle and nerve biopsy are needed to help evaluate the
   nature of her myopathy and to look for evidence of a vasculitic
   neuropathy in the setting of her cryoglobulinemia.  Other differential
   includes vitamin deficiencies, rheumatological problems like
   dermatomyositis or other myosities.
   - cyro levels pending
   - neuron consult and will touch base with Dr. [**Last Name (STitle) 4690**]; plan for possible
   nerve biopsy and / or EMG
   .
   # HCV: stable on peg interferon maintenance
   - appreciate liver recs
   - continue IFN Q week, although need to consider IFN as toxic cause of
   her myopathy
   .
   # Tachycardia
 likely from pain as responsive to morphine; could also
   be fluid down.
   - tx with morphine for now, can transition to long acting pain control
   when G tube or NG place
   - IVF boluses PRN
   - IV metoprolol standing for heart rate control and cardioprotection in
   setting of NSTEMI
   .
   # Dysphagia: seen by neuro and ENT as well as S&S eval in [**10-17**]. Felt
   to have laryngeal reflux.
   - NPO tonight
   - continuing PPI, stopping ranitidine today
   - will discuss with liver if PEG tube can be placed
   .
   # Thrombocytopenia: baseline in last 6 months 50-70's. At OSH, plts to
   20's and OSH stopped heparin with concern for HIT. No HIT sent yet.
   - trend and transfuse for plt <20 or bleeding
   - hold all heparin products
   - check HIT Ab
   .
   # NSTEMI: likely demand ischemia at OSH
   - trending troponins, CKs negative; EKGs without signs of ischemia
   - holding aspirin
   - metoprolol as above for tachycardia
   .
   # FEN:
   - maintenance fluids
   - replete electrolytes
   - tube feeds after NGT or PEG placement
   .
   # Prophylaxis:
   - pneumoboots
   - PPI
   .
   # Access:
   - RIJ from OSH (placed on [**1-18**]); plan for PIVs and then d/c of RIJ if
   possible
   .
   # Code: FULL CODE
   .
   # Communication: Patient and husband
   - of note, pt does not wish for extended family to know about HCV
   status
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-25**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-27 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-26**] Events:
   - Neuro rec'd sural nerve biopsy by NSurg ([**Doctor Last Name 67**])
   - Liver rec'd Dobhoff tube for nutrition, hydroxyzine for itching,
   consider plamapharesis if condition does not improve
   - RUQ U/S -> Trace ascites without sufficient fluid for safe bedside
   paracentesis. Stable enlarged CBD. Coarsened liver c/w cirrhosis,
   without focal lesions
   - tachycardia improved with fluid boluses, morphine, ativan and IV
   metoprolol 5mg IV
 MULTI LUMEN - STOP [**2145-1-26**] 04:46 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-1-26**] 01:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2145-1-26**] 10:50 PM
   Pantoprazole (Protonix) - [**2145-1-27**] 12:03 AM
   Lorazepam (Ativan) - [**2145-1-27**] 04:44 AM
   Metoprolol - [**2145-1-27**] 04:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-27**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 88 (88 - 120) bpm
   BP: 139/81(95) {123/79(93) - 164/104(112)} mmHg
   RR: 10 (8 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,561 mL
                                                                    438 mL
   PO:
             TF:
   IVF:
                                                                  1,561 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    490 mL
   Urine:
                                                                  1,205 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    356 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 359 (305 - 418) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 15 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   NIF: -18 cmH2O
   Ve: 7 L/min
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: CN: unable to squeeze eyes, EOM minimal upward gaze, PERRL 2mm->
   1 mm, tongue midline, sternocleidomastoids [**4-13**], shoulder shrug: pt did
   not coorperate fully
   delt: unable to move against gravity
   biceps: [**2-11**]
   triceps: [**2-11**]
   Finger ext: [**3-14**]
   hip flex: [**2-11**]
   quads: exam difficult as pt not completely cooperating [**2-11**]
   hams: [**2-11**]
   foot plantar/dorsiflex: [**4-13**]
   reflexes: brachoradialis: 3+ bil
   patellar: 3+ bilt
   achilles: unable to be elicited
   Labs / Radiology
   107 K/uL
   10.5 g/dL
   92 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   6 mg/dL
   102 mEq/L
   134 mEq/L
   31.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2145-1-25**]  10:13 PM
                             [**2145-1-25**]  11:55 PM
                             [**2145-1-26**]  03:13 AM
                             [**2145-1-26**]  05:08 PM
                             [**2145-1-27**]  03:55 AM
   WBC
   6.4
   6.7
   6.0
   Hct
   29.5
   29.9
   30.0
   31.9
   Plt
   76
   80
   107
   Cr
   0.3
   0.3
   0.3
   TropT
   0.18
   0.14
   TCO2
   27
   Glucose
   73
   84
   92
   Other labs: PT / PTT / INR:14.9/32.1/1.3, CK / CKMB /
   Troponin-T:128/15/0.14, ALT / AST:18/69, Alk Phos / T Bili:104/1.0,
   Amylase / Lipase:113/124, Albumin:2.2 g/dL, LDH:270 IU/L, Ca++:7.4
   mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is a 55 y/o F hx HCV on IFN, cryoglobulinemia, dysphagia,
   progressive neuromuscular weakness followed by neurology now s/p trach
   after intubation for aspiration pneumonia and persistant difficulty
   weaning from vent.
   .
   .
   # Hypoxic respiratory failure: She now has resolving resp failure from
   PNA/ARDS now s/p trach [**1-25**] at OSH. Her difficulty weaning from vent is
   presumptively [**1-11**] neuromuscular weakness, although improving. her
   pneumonia appears to have cleared rapidly. ? pneumonitis vs pneumonia.
   Nonetheless, she is on a [**7-19**] day course abx. Given that her weakness
   preceeded her critical illness, I suspect cryoglobulinemia as primary
   process.
   - complete 10 day of cefepime, last day today
   - continue PS with goal to wean, daily RSBI and SBT; continuing to
   improve, will do trach collar trial today
   - NIF is still -18 today
   - consult neuron/liver for help determining etiology of muscle weakness
   - f/u outpt muscle bx results. Per OSH ICU attd, Dr. [**Last Name (STitle) **], call
   [**Telephone/Fax (1) 4688**] for bx results (or can page Dr. [**Last Name (STitle) **] [**Telephone/Fax (1) 4689**])
   - continue nebs given hx asthma
   .
   # Myopathy/Neuropathy: She is followed by neurology.
   Myopathy/neuropathy felt possibly [**1-11**] mixed cryoglobulinemia associated
   with HCV. Per recent neurology outpatient visit, EMG showed a mild
   sensorimotor polyneuropathy as well as a myopathic process in several
   proximal muscles (IP, biceps, infraspinatus, and prominently in L3
   paraspinals).  Muscle and nerve biopsy are needed to help evaluate the
   nature of her myopathy and to look for evidence of a vasculitic
   neuropathy in the setting of her cryoglobulinemia.  Other differential
   includes vitamin deficiencies, rheumatological problems like
   dermatomyositis or other myosities.
   - cyro levels pending
   - neuron consult; plan for EMG and a nerve biopsy with neurosurg (Dr.
   [**First Name (STitle) 67**]
   - will follow up OSH biopsy, plan is to have specimen sent to [**Hospital1 **] after
   it is fixed
   .
   # HCV: stable on peg interferon maintenance
   - appreciate liver recs, abd US done and showed no ascites; question is
   now PEG v. dobhoff
   - holding INF as it may  be possible cause of weakness
   - HCV virus and cyro levels pending
   .
   # Tachycardia
 likely from pain as responsive to morphine; could also
   be fluid down.
   - improved, rates in 90s-100s mostly now
   - tx with morphine for now, can transition to long acting pain control
   when G tube or NG place
   - on maintenance fluids for now
   - IV metoprolol standing for heart rate control and cardioprotection in
   setting of NSTEMI; will switch from IV to PO nadolol when access to gut
   is achieved
   .
   # Dysphagia: seen by neuro and ENT as well as S&S eval in [**10-17**]. Felt
   to have laryngeal reflux.
   - NPO tonight
   - continuing PPI, stopped ranitidine
   - will discuss with liver if PEG tube can be placed; likely can be
   placed since no ascites
   .
   # Thrombocytopenia: baseline in last 6 months 50-70's. At OSH, plts to
   20's and OSH stopped heparin with concern for HIT. No HIT sent yet.
   - trend and transfuse for plt <20 or bleeding
   - hold all heparin products
   - check HIT Ab
 results pending
   .
   # NSTEMI: likely demand ischemia at OSH
   - trending troponins, CKs negative; EKGs without signs of ischemia
   - holding aspirin
   - metoprolol as above for tachycardia
   .
   # FEN:
   - maintenance fluids
   - replete electrolytes
   - tube feeds after NGT or PEG placement per liver recs, likely should
   have PEG to avoid two procedures as likely will need long term feeding
   options
   .
   # Prophylaxis:
   - pneumoboots
   - PPI
   - no heparin problems
   .
   # Access:
   - RIJ from OSH removed, now with PIVs
   .
   # Code: FULL CODE
   .
   # Communication: Patient and husband
   - of note, pt does not wish for extended family to know about HCV
   status
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-1-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-29 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - speech and swallow eval today, could not handle Passy-Muir valve yet,
   will try again on Friday
   - tachycardic in afternoon; appeared dry perhaps from autodiuresis with
   low K/Phos - given IVFs, tachycardia improved overnight
   - optho recs continued cipro gtts, spaced out lacrilube to q2 hrs,
   added erythromycin drops at night to L eye
   - neurosurg preop completed with type and screen, UA, CXR
   - waiting for OSH path prior to nerve biopsy, because if specimen is
   inadequate would like to do both muscle and nerve biopsy at the same
   time; plan would be for Monday if not tomorrow - need to touch base
   with both neuro and neurosurg today about finalized plan
   - aggitated overnight and slept very little, did not respond to
   morphine or ativan; can consider adding sleeping medicine tomorrow
   night like trazadone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-1-27**] 06:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-1-28**] 10:00 PM
   Lorazepam (Ativan) - [**2145-1-29**] 02:49 AM
   Morphine Sulfate - [**2145-1-29**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-29**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 99 (89 - 118) bpm
   BP: 157/91(108) {124/79(90) - 169/121(126)} mmHg
   RR: 27 (21 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,657 mL
                                                                  1,516 mL
   PO:
             TF:
                                                                    952 mL
                                                                     10 mL
   IVF:
                                                                  1,225 mL
                                                                  1,505 mL
   Blood products:
   Total out:
                                                                  4,025 mL
                                                                  1,335 mL
   Urine:
                                                                  3,725 mL
                                                                  1,135 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                 -1,368 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: CN: unable to squeeze eyes, EOM minimal upward gaze, PERRL 2mm->
   1 mm, tongue midline, sternocleidomastoids [**4-13**], shoulder shrug: pt did
   not coorperate fully
   Not cooperating with neuro exam this morning, moving all 4 extremities
   against gravity but not pushing against resistance, reflexes continue
   to be 3+
   Labs / Radiology
   140 K/uL
   11.4 g/dL
   95 mg/dL
   0.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   6 mg/dL
   109 mEq/L
   138 mEq/L
   34.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2145-1-25**]  10:13 PM
                             [**2145-1-25**]  11:55 PM
                             [**2145-1-26**]  03:13 AM
                             [**2145-1-26**]  05:08 PM
                             [**2145-1-27**]  03:55 AM
                             [**2145-1-28**]  03:28 AM
                             [**2145-1-28**]  09:56 PM
                             [**2145-1-29**]  03:23 AM
   WBC
   6.4
   6.7
   6.0
   6.8
   6.6
   Hct
   29.5
   29.9
   30.0
   31.9
   31.6
   34.0
   Plt
   76
   80
   107
   118
   140
   Cr
   0.3
   0.3
   0.3
   0.2
   0.3
   0.3
   TropT
   0.18
   0.14
   TCO2
   27
   Glucose
   73
   84
   92
   101
   108
   95
   Other labs: PT / PTT / INR:14.7/31.5/1.3, CK / CKMB /
   Troponin-T:128/15/0.14, ALT / AST:18/69, Alk Phos / T Bili:104/1.0,
   Amylase / Lipase:113/124, Albumin:2.2 g/dL, LDH:270 IU/L, Ca++:7.9
   mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   This is a 55 y/o F hx HCV on IFN, cryoglobulinemia, dysphagia,
   progressive neuromuscular weakness followed by neurology now s/p trach
   after intubation for aspiration pneumonia and persistent difficulty
   weaning from vent.
   .
   .
   # Myopathy/Neuropathy: She is followed by neurology.
   Myopathy/neuropathy felt possibly [**1-11**] mixed cryoglobulinemia associated
   with HCV. Per recent neurology outpatient visit, EMG showed a mild
   sensorimotor polyneuropathy as well as a myopathic process in several
   proximal muscles (IP, biceps, infraspinatus, and prominently in L3
   paraspinals).  Muscle and nerve biopsy are needed to help evaluate the
   nature of her myopathy and to look for evidence of a vasculitic
   neuropathy in the setting of her cryoglobulinemia.  Other differential
   includes vitamin deficiencies, rheumatological problems like
   dermatomyositis or other myosities.  Working diagnosis is an INF
   related primary myopathy with an underlying secondary neuropathy
   related to cyroglobulemiia.  Neuro and neurosurg following
   - cryo levels pending
   - plan to review OSH muscle biopsies with neuro. OSH doctor is Dr. [**Last Name (STitle) **],
   call [**Telephone/Fax (1) 4688**] for bx results (or can page Dr. [**Last Name (STitle) **] [**Telephone/Fax (1) 4689**])
   - neuro would like to hold on nerve biopsy pending the muscle biopsy
   results; Dr. [**First Name (STitle) 67**] is following and she is scheduled for OR today
   - appreciate neuro and neurosurg recs
   .
   .
   # Hypoxic respiratory failure: She now has resolving resp failure from
   PNA/ARDS now s/p trach [**1-25**] at OSH. Her difficulty weaning from vent is
   presumptively [**1-11**] neuromuscular weakness, although improving. her
   pneumonia appears to have cleared rapidly. ? pneumonitis vs pneumonia.
   Completed course of cefepime on [**1-27**]. Given that her weakness preceeded
   her critical illness, I suspect cryoglobulinemia as primary process.
   - completed 10 day of cefepime on [**1-27**]
   - doing well on trach mask trial
   - continue nebs given hx asthma
   .
   # HCV: stable, viral load undetectable
   - appreciate liver recs, abd US done and showed minimal ascites
   - dobhoff placed, starting nutrition; will have to follow up long term
   nutrition plans
   - holding INF as it may be possible cause of weakness
   - cryo levels pending
   .
   # Corneal abrasion and conjunctivitis
 opthamology following;
   - tx with lacrilube ointment q 1hr, lacrilube drops q2 hr and cipro
   gtts q 6hrs
   - at risk for worsening corneal damage in setting of muscle weakness
   and inability to close eyes; will need close eye care for now and
   follow up with ophthalmology
   .
   # Tachycardia
 likely from pain as responsive to morphine; could also
   be fluid down.
   - improved, rates in 90s-100s mostly now
   - tx with morphine for now, requiring less and less medicine
   - starting tube feeds now that dobhoff placed
   - transitioned back to nadolol for varices; can titrate up as needed
   .
   # Dysphagia: seen by neuro and ENT as well as S&S eval in [**10-17**]. Felt
   to have laryngeal reflux.  Failed PMV trial [**1-28**] [**1-11**]
   coughing/secretions.
   - continue PMV trials
   - NPO
   - continuing PPI, stopped ranitidine
   - dobhoff in place
   .
   # Thrombocytopenia: baseline in last 6 months 50-70's. At OSH, plts to
   20's and OSH stopped heparin with concern for HIT. No HIT sent yet.
   - trend and transfuse for plt <20 or bleeding
   - hold all heparin products
   - check HIT Ab  - negative
   .
   # NSTEMI: likely demand ischemia at OSH
   - trending troponins, CKs negative; EKGs without signs of ischemia
   - holding aspirin
   - nadolol as above for tachycardia
   .
   # FEN:
   - on tube feeds, stopping maintenance fluids
   - replete electrolytes
   .
   # Prophylaxis:
   - pneumoboots
   - PPI
   - no HIT
 starting SQ heparin after nerve biopsy, will hold AM of
   surgery
   .
   # Access:
   - RIJ from OSH removed, now with PIVs
   .
   # Code: FULL CODE
   .
   # Communication: Patient and husband
   - of note, pt does not wish for extended family to know about HCV
   status
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2145-1-26**] 04:50 PM
   20 Gauge - [**2145-1-28**] 12:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: